### PR TITLE
add solutions 1-4

### LINKED ISSUE #16: Add solutions for weeks 1 - 4

### PR DESCRIPTION
**Pull request by themathqueen**
Solutions for Workshops and Homeworks (weeks 1 - 4)

Closes #16

### CODE REVIEW

File: Solutions/Workshops/workshop3.lean [hunk 1]
```diff
@@ -0,0 +1,254 @@
...
+  ∀ x₁ x₂, x₁ ≤ x₂ → f x₁ ≤ f x₂
+
+-- You may want to use:
+#check le_total
+
+example (f : ℝ → ℝ) (h : NonDecreasing f) (h' : ∀ x, f (f x) = x) : ∀ x, f x = x := by
+  intro x
+  rcases le_total (f x) x with H | H
+  · apply le_antisymm H
+    nth_rw 1 [← h' x]
```
Comment (AdrianDoM) [inline Solutions/Workshops/workshop3.lean:250]: Should we add a comment about `nth_rw`? I believe we briefly mentioned it, but never actually gave an example.

File: Solutions/Workshops/workshop4.lean [hunk 2]
```diff
@@ -0,0 +1,331 @@
...
+  tada
+
+-- 4
+example : s \ t ∪ t \ s = (s ∪ t) \ (s ∩ t) := by
+  ext x
+  simp only [mem_union, mem_diff, mem_inter_iff]
+  constructor
+  . rintro (⟨xs, xnt⟩ | ⟨xs, xnt⟩) <;>
+    simp only [xnt, and_false, not_false_iff, and_true, or_false, xs, false_or]
+  .
```
Comment (AdrianDoM) [inline Solutions/Workshops/workshop4.lean:248]: Why do we have a new line here? Instead of:
```suggestion
  . rintro ⟨(xts | xts), xs⟩ <;>
```

File: Solutions/Workshops/workshop4.lean [hunk 3]
```diff
@@ -0,0 +1,331 @@
...
+def oddSet : Set ℕ :=
+  { n | ¬Even n }
+
+#print Prime
+#print Nat.Prime
+
+-- 6
+example : { n | Nat.Prime n } ∩ { n | n > 2 } ⊆ oddSet := by
+  rintro x ⟨hprime, hgt2⟩
+  suffices hodd : ¬Even x
```
Comment (AdrianDoM) [inline Solutions/Workshops/workshop4.lean:310]: I don't think we've talked about suffices. Should we write something here as well?

File: Solutions/Homeworks/homework3.lean [hunk 4]
```diff
@@ -0,0 +1,832 @@
...
+  have absa : |s N - a| < ε := hNa N (le_of_max_le_left (le_refl _))
+  have absb : |s N - b| < ε := hNb N (le_of_max_le_right (le_refl _))
+  suffices : |a - b| < |a - b|
+  . exact lt_irrefl _ this
+  calc |a - b| = |(s N - a) + (b - s N)| := by simp only [sub_add_sub_cancel', abs_sub_comm]
+    _ ≤ |s N - a| + |b - s N| := abs_add _ _
+    _ = |s N - a| + |s N - b| := by simp only [abs_sub_comm]
+    _ < ε + ε := add_lt_add absa absb
+    _ = |a - b| := by ring
+/-
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework3.lean]: For some reason the file is repeated a couple more times from here onwards.

File: Solutions/Homeworks/homework4.lean [hunk 5]
```diff
@@ -0,0 +1,201 @@
...
+
+-- 10
+example : sqrt '' NonNegReals = NonNegReals := by
+  ext y; constructor
+  · rintro ⟨x, _, rfl⟩
+    exact sqrt_nonneg _
+  intro ypos
+  use y ^ 2
+  rw [sqrt_sq ypos]
+  refine ⟨sq_nonneg y, rfl⟩
```
Comment (AdrianDoM) [inline Solutions/Homeworks/homework4.lean]: I don't think we've mentioned `refine` either. We could decide to introduce it here, or an `exact` would work too.

**Review by AdrianDoM — COMMENTED** [review]
This looks great, thanks Monica! Just added a few comments about the usage of new tactics.

File: Solutions/Workshops/workshop3.lean (hunk 1 above)
Comment (themathqueen) [reply Solutions/Workshops/workshop3.lean:250]: Probably a good idea then, if we never gave an example of it!

Comment (themathqueen) [reply Solutions/Workshops/workshop3.lean:250]: Maybe we should add a file with all the tactics and examples of how to use them? 🤔

For a quick reference. A cheatsheet with examples.

File: Solutions/Workshops/workshop4.lean (hunk 2 above)
Comment (themathqueen) [reply Solutions/Workshops/workshop4.lean:248]: I think it was for readability. Because it extended to more than 100 spaces in the column.

You can change it to be in one line though, if you think it might confuse them. Unless this would be a good time to say that you can have a new line, just as long as it doesn't screw up the indentation?

File: Solutions/Workshops/workshop4.lean (hunk 3 above)
Comment (themathqueen) [reply Solutions/Workshops/workshop4.lean:310]: Ah, yeah probably should say something before then

File: Solutions/Homeworks/homework3.lean (hunk 4 above)
Comment (themathqueen) [reply Solutions/Homeworks/homework3.lean]: Yeah wtf, that was weird. Might've been some weird bug when I was merging? But I updated now.

File: Solutions/Homeworks/homework4.lean (hunk 5 above)
Comment (themathqueen) [reply Solutions/Homeworks/homework4.lean]: Yeah, let's just use exact haha. I used `refine` because I was trying something
